US05612352
A solution of 2-[4-(4-fluorophenyl)benzylidene]quinuclidin-3-one (1.3 g) in ethyl acetate (40 ml) was hydrogenated at atmospheric pressure for 4 hours over a catalyst of 10% palladium on carbon. The catalyst was removed by filtration and the filtrate evaporated. The residue was purified by medium pressure chromatography on silica gel using ethyl acetate as eluant to give 2-[4-(4-fluorophenyl)benzyl]quinuclidin-3-one as a colourless solid (38% yield), m.p. 122°-123° C., microanalysis, found: C, 77.5; H, 6.5; N, 4.4% C20H20FNO requires: C, 77.6; H, 6.5; N, 4.5%; NMR (CDCl3): 1.9-2.1 (4H, m), 2.5 (1H, m), 2.8-3.0 (3H, m), 3.1-3.3 (3H, m), 3.4 (1H, d of d), 7.1 (2H, m), 7.3-7.4 (2H, d) and 7.4-7.6 (4H, m); m/z 310 (M+H).

reactant | 2-[4-(4-fluorophenyl)benzylidene]quinuclidin-3-one | 1.3 g | FC1=CC=C(C=C1)C1=CC=C(C=C2N3CCC(C2=O)CC3)C=C1 | C20H18FNO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 2-[4-(4-fluorophenyl)benzyl]quinuclidin-3-one | 38% yield | FC1=CC=C(C=C1)C1=CC=C(CC2N3CCC(C2=O)CC3)C=C1 | C20H20FNO
